US09290465B2
A solution of 3-[4-(4-fluoro-benzyloxy)-phenyl]-isoxazole-4-carboxylic acid ethyl ester (19.6 g, 57.5 mmol) in ethanol (65 mL) at 60° C. was treated with 2N aqueous NaOH (65 mL). After stirring for 14 h, the resulting yellow suspension was poured onto 500 mL of ice water and the mixture was adjusted to pH 2 with 4N HCl. The white suspension was removed by filtration and washed with water. The wet filter cake was dissolved in ethyl acetate and dried over Na2SO4. Filtration followed by removal of volatiles under reduced pressure gave crude material from which 3-[4-(4-fluoro-benzyloxy)-phenyl]-isoxazole-4-carboxylic acid (16.4 g, 91%) was isolated in pure form after washing twice with heptane, once with diethyl ether and dried in vacuo.

reactant | 3-[4-(4-fluoro-benzyloxy)-phenyl]-isoxazole-4-carboxylic acid ethyl ester | 57.5 mmol, 19.6 g | C(C)OC(=O)C=1C(=NOC1)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F | C19H16FNO4
reactant | NaOH | 2N, 65 mL | [OH-].[Na+]
reactant | HCl | 4N | Cl | ClH
solvent | ethanol | 65 mL | C(C)O | C2H6O
product | 3-[4-(4-fluoro-benzyloxy)-phenyl]-isoxazole-4-carboxylic acid | 16.4 g, 91% | FC1=CC=C(COC2=CC=C(C=C2)C2=NOC=C2C(=O)O)C=C1 | C17H12FNO4
